US06303780B1
Part A Preparation of 4′-Chloro-2′-fluoro-2,2-dimethylpropionanilide
To a stirred, cooled (0° C.) solution of 3.64 g (25.0 mmol) of 4-chloro-2-fluoroaniline and 4.2 mL (30 mmol) of triethylamine in 50 mL of THF was added 4.18 mL (26 mmol) of pivaloyl chloride. After stirring for 10 min. at 0° C. the mixture was warmed to ambient temperature and poured into 0.5N HCl. The mixture was extracted with 100 mL of ether, and the organic extract was washed sequentially with NaHCO3 and brine. The solution was dried (MgSO4), concentrated under reduced pressure, and chromatographed on silica gel (elution with 3:1 hexanes-ether) to give, after removal of solvent, 5.2 g (92%) of 4′-chloro-2′-fluoro-2,2-dimethylpropionanilide as a pale pink solid (IX), mp 70.5-71° C. 1H NMR (300 MHz, CDCl3) δ 8.36(t, 1H, J=8.4 Hz); 7.57(br. s, 1H); 7.10-7.17(m, 2H); 1.30(s, 9H). 19F NMR (282 MHz, CDCl3) δ −129.8. High resolution mass spec: calculated for C11H14NOClF(M+H)+: 230.0748, found: 230.0760.

reactant | 4-chloro-2-fluoroaniline | 25.0 mmol, 3.64 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 26 mmol, 4.18 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | HCl | 0.5N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4′-Chloro-2′-fluoro-2,2-dimethylpropionanilide | ClC1=CC(=C(NC(C(C)(C)C)=O)C=C1)F | C11H13ClFNO
